US08685969B2
4. 4-(Dimethylamino)-N-(2-fluoro-3-(1-(6-morpholino-1H-indol-3-yl)-2-nitroethyl)phenyl)benzamide
A mixture of 4-(1H-indol-6-yl)morpholine (0.393 g, 1.943 mmol), (E)-4-(dimethylamino)-N-(2-fluoro-3-(2-nitrovinyl)phenyl)benzamide (0.400 g, 1.215 mmol), and tris(trifluoromethylsulfonyloxy)ytterbium (0.075 g, 0.121 mmol) in acetonitrile (25 mL) was heated at 50° C. for 20 h. The acetonitrile was removed under vacuum. The residue was diluted with ethyl acetate (180 mL), washed with 10% NaHCO3 solution (2×40 mL) and brine (40 mL), and dried over anhydrous MgSO4. The desired product (0.412 g, 0.750 mmol, 61.8% yield) was isolated with ISCO (80 g silica gel, 30-80% ethyl acetate/hexane) as a pale yellow solid.

reactant | 4-(1H-indol-6-yl)morpholine | 1.943 mmol, 0.393 g | N1C=CC2=CC=C(C=C12)N1CCOCC1 | C12H14N2O
reactant | (E)-4-(dimethylamino)-N-(2-fluoro-3-(2-nitrovinyl)phenyl)benzamide | 1.215 mmol, 0.400 g | CN(C1=CC=C(C(=O)NC2=C(C(=CC=C2)\C=C\[N+](=O)[O-])F)C=C1)C | C17H16FN3O3
reactant | tris(trifluoromethylsulfonyloxy)ytterbium | 0.121 mmol, 0.075 g | FC(S(=O)(=O)O[Yb](OS(=O)(=O)C(F)(F)F)OS(=O)(=O)C(F)(F)F)(F)F
reactant | ethyl acetate hexane | C(C)(=O)OCC.CCCCCC
solvent | acetonitrile | 25 mL | C(C)#N | C2H3N
product | 4-(Dimethylamino)-N-(2-fluoro-3-(1-(6-morpholino-1H-indol-3-yl)-2-nitroethyl)phenyl)benzamide | 0.750 mmol, 0.412 g, 61.8% yield | CN(C1=CC=C(C(=O)NC2=C(C(=CC=C2)C(C[N+](=O)[O-])C2=CNC3=CC(=CC=C23)N2CCOCC2)F)C=C1)C | C29H30FN5O4
